US05416101
Preparation of 4-(4-chlorophenyl)-2-(t-butylsulfonyl)-2-((1,2,4-triazol-1-yl)methyl)butanenitrile
Into a 3-neck, 300 mL round bottom flask was charged 2.0g (0.05 mole, 2.5 equivalents (eq)) of 60% NaH, which had been previously washed two times with successive 30 mL portions of hexane, in 50 mL of DMF. While stirring under nitrogen, 5.98 g (0.020 mole, 1.0 eq) of 4-(4-chlorophenyl)-2-(t-butylsulfonyl)butanenitrile in 50 mL of DMF was added dropwise over 0.5 hr. The mixture was stirred for an additional 45 minutes after which 1-(chloromethyl)-1,2,4-triazole hydrochloride (3.36 g, 0.022 mole), was added directly in two portions. The mixture was stirred at room temperature for 12 hrs, 40 ° C. for 8 hrs and 45 ° C. for 12 hrs after which analysis by GLC indicated the reaction was complete. The reaction was quenched by the addition of water and extracted with 150 mL of ethyl acetate, dried with sodium sulfate, filtered and concentrated to give 10 g of crude product. The product was purified by column chromatography on silica gel. Elution with hexane:ethyl acetate (2:1) gave 3.6 g of an oil (fractions 1-5) which was followed by elution with hexane:ethyl acetate (1:1) to give an additional 1.0 g of oil. Both fractions contained a major and minor product as observed using thin layer chromatography (TLC) in ethyl acetate:hexane (1:1). The 3.6 grams of oil was further purified by flash chromatography on silica gel with hexane:ethyl acetate (1:1). The product was collected in fractions 34-60 (20 mL fractions) and gave 1.4 g of a thick yellow oil.

reactant | NaH | 0.05 mole, 2.0g, 2.5 equivalents | [H-].[Na+]
reactant | 4-(4-chlorophenyl)-2-(t-butylsulfonyl)butanenitrile | 0.020 mole, 5.98 g, 1.0 eq | ClC1=CC=C(C=C1)CCC(C#N)S(=O)(=O)C(C)(C)C | C14H18ClNO2S
reactant | 1-(chloromethyl)-1,2,4-triazole hydrochloride | 0.022 mole, 3.36 g | Cl.ClCN1N=CN=C1
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(4-chlorophenyl)-2-(t-butylsulfonyl)-2-((1,2,4-triazol-1-yl)methyl)butanenitrile | 3.6 g | ClC1=CC=C(C=C1)CCC(C#N)(CN1N=CN=C1)S(=O)(=O)C(C)(C)C | C17H21ClN4O2S
